US08247431B2
Step 2: Preparation of 4-tert-butoxycarbonylamino-5-chloro-nicotinic acid
(3-Chloro-pyridin-4-yl)-carbamic acid tert-butyl ester (1.50 g) was dissolved in dry diethyl ether (35 mL), N,N,N′,N′-tertamethylenethylendiamine (2.35 mL) was added and the reaction mixture was cooled in a dry ice/acetone cool bath to −78° C. n-Butyl lithium (9.9 mL, 1.59M in hexane) was added to the suspension, the cool bath was replaced by a sodium chloride/ice mixture and the reaction mixture was stirred at −10° C. for 1.5 h. The suspension was slowly poured on crushed dry ice (2.0 g) in dry diethyl ether (20 mL) and stirred for 1 h. Water was added and the pH was adjusted to −12 by addition of 2N sodium hydroxide solution. The aqueous layer was washed 2× with MTB-ether, 2 M hydrochloric acid was added to the aqueous layer and the pH was adjusted to −2 and the aqueous layer was 3× extracted with ethyl acetate. The combined organic layer was washed with brine, dried over magnesium sulfate and concentrated in vacuum to afford 1.03 g of the title compound of the formula

reactant | (3-Chloro-pyridin-4-yl)-carbamic acid tert-butyl ester | 1.50 g | C(C)(C)(C)OC(NC1=C(C=NC=C1)Cl)=O | C10H13ClN2O2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | n-Butyl lithium | 1.59M, 9.9 mL | C(CCC)[Li]
reactant | dry ice | 2.0 g | C(=O)=O | CO2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | diethyl ether | 35 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 20 mL | C(C)OCC | C4H10O
solvent | Water | O | H2O
product | 4-tert-butoxycarbonylamino-5-chloro-nicotinic acid | 1.03 g | C(C)(C)(C)OC(=O)NC1=C(C=NC=C1C(=O)O)Cl | C11H13ClN2O4
